US04393228
To a solution of 1.98 g of ethyl potassium epoxysuccinate (i.e. ethyl potassium oxirane 2,3-dicarboxylate) in 50 ml of ethyl ether, a solution of 1.4 g of oxalyl chloride in 30 ml of ethyl ether was added dropwise while being stirred and cooled by ice for 30 min. After the mixture had been stirred additionally at room temperature for 2 hours, the formed precipitate was filtered. The filtrate was concentrated by evaporation under reduced pressure to give epoxysuccinic acid monoethyl ester chloride as an oil. Then, the acid chloride was dissolved in 30 ml of ethyl ether and the solution thus obtained was added dropwise to a solution of 1.6 g of L-leucine ethyl ester and 1.1 g of triethylamine dissolved in 50 ml of ethyl ether while being stirred and cooled by ice for 30 min. After the mixture had been stirred additionally at room temperature for three hours, the formed precipitate was filtered. The filtrate was evaporated under reduced pressure to give an oil. The oil thus obtained was further purified by silica gel column chromatography using chloroform-acetone (100:5) mixture as solvent to give N-(3-ethoxycarbonyloxirane-2-carbonyl)-L-leucine ethyl ester(EP-146) as a colorless oil. Yield 1.9 g (63%). Mass: m/e 301 (M+). IRνfilm (cm-1): 3370 (amine), 1748 (ester), 1680, 1545 (amide), 895 (epoxide). NMR(CDCl3)δ: 0.95 (6H, d, J=5 Hz), 1.26 (3H, t, J=7 Hz), 1.29 (3H, t, J=7 Hz), 1.64 (3H, m), 3.42 (0.5 H, d, J=2 Hz), 3.51 (0.5 H, d, J=2 Hz), 3.67 (1H, d, J=2 Hz), 4.20 (4H, q, J=2 Hz), 4.6 (1H, m), 6.35 (1H, b.).

reactant | ethyl potassium epoxysuccinate | 1.98 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 1.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
product | epoxysuccinic acid monoethyl ester chloride | [Cl-].C(C)OC(C1C(C(=O)O)O1)=O | InChI=1S/C6H8O5.ClH/c1-2-10-6(9)4-3(11-4)5(7)8;/h3-4H,2H2,1H3,(H,7,8);1H/p-1
